US09102621B2
2,4,5-Trifluoro-N-(methylsulfonyl)benzamide
2,4,5-Trifluorobenzoic acid (3.00 g, 17.0 mmol), N-ethyl-N-isopropylpropan-2-amine (8.9 mL, 6.6 g, 51.1 mmol), 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide 50% solution in EtOAc/DMF (12.7 mL, 13.6 g, 42.6 mmol) and methanesulfonamide (3.24 g, 34.1 mmol) were suspended in THF (40 mL) and stirred under a nitrogen atmosphere at reflux for 18 hours. The reaction mixture was cooled, concentrated in vacuo and the residue suspended in water (pH=4). The mixture was acidified to pH=2 with an aqueous solution of potassium hydrogen sulfate (0.5 M). The mixture was extracted with EtOAc (1×100 mL). The organic layer was washed with brine (2×50 mL), dried over sodium sulfate, filtered and evaporated to yield the crude solid. The crude solid was triturated with hexane to yield the title compound as an off-white crystalline solid (3.08 g, 72%).

reactant | 2,4,5-Trifluorobenzoic acid | 17.0 mmol, 3.00 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 51.1 mmol, 8.9 mL, 6.6 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | EtOAc DMF | 42.6 mmol, 12.7 mL, 13.6 g | CCOC(=O)C.CN(C)C=O
reactant | methanesulfonamide | 34.1 mmol, 3.24 g | CS(=O)(=O)N | CH5NO2S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2,4,5-Trifluoro-N-(methylsulfonyl)benzamide | 3.08 g, 72% | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)F)F | C8H6F3NO3S
